US05541339
5,5'-[2,5-furandiylbis(carbonylimino)]bis-1H-indole-2-carboxylic acid diethyl ester (60 mg, 0.11 mM) is suspended in methanol (0.4 mL) and treated with N NaOH (0.25 mL). After 5 days the reaction is evaporated in vacuo and the residue dissovlved in water and the solution acidified to pH 2 with N HCl. This solution is freeze dried leaving 5,5'-[2,5-furandiylbis(carbonylimino)]bis-1H-indole-2-carboxylic acid (22 mg).

reactant | 5,5'-[2,5-furandiylbis(carbonylimino)]bis-1H-indole-2-carboxylic acid diethyl ester | 0.11 mM, 60 mg | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)NC(=O)C1=CC=C(O1)C(=O)NC=1C=C2C=C(NC2=CC1)C(=O)OCC | C28H24N4O7
reactant | NaOH | 0.25 mL | [OH-].[Na+]
solvent | methanol | 0.4 mL | CO | CH4O
product | 5,5'-[2,5-furandiylbis(carbonylimino)]bis-1H-indole-2-carboxylic acid | 22 mg | O1C(=CC=C1C(=O)NC=1C=C2C=C(NC2=CC1)C(=O)O)C(=O)NC=1C=C2C=C(NC2=CC1)C(=O)O | C24H16N4O7
